US07141564B2
(a) 2-(2-Iodo-6-methyl-pyridin-3-yloxy)-ethanol
2-Iodo-6-methyl-pyridin-3-ol (6.49 g, 27.6 mmol) was dissolved in an aqueous solution of sodium hydroxide (1M, 30 mL). 2-bromoethanol (3.91 mL, 55.2 mmol) was added dropwise and then the solution was heated to 100° C. for 3 hours. The resulting mixture was extracted with chloroform (2×200 mL) and the combined organic phases then back extracted with aqueous sodium hydroxide solution (1M, 50 mL). The organic phase was dried over magnesium sulfate and the volatiles removed in vacuo to afford the desired product (5.26 g) which was used without further purification.

reactant | 2-Iodo-6-methyl-pyridin-3-ol | 27.6 mmol, 6.49 g | IC1=NC(=CC=C1O)C | C6H6INO
reactant | 2-bromoethanol | 55.2 mmol, 3.91 mL | BrCCO | C2H5BrO
solvent | sodium hydroxide | 1M, 30 mL | [OH-].[Na+]
product | 2-(2-Iodo-6-methyl-pyridin-3-yloxy)-ethanol | 5.26 g | IC1=NC(=CC=C1OCCO)C | C8H10INO2
